US07220759B2
In the same manner as in Example 16b and using N,N-diethyl-3-chloro-2-methylbenzamide (3.35 g) and (R)-3-(2-hydroxymethylpyrrolidin-1-yl)-N-methoxy-N-methylpropanamide (3.22 g), (R)-5-chloro-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-2H-isoquinolin-1-one (645 mg) was obtained.

reactant | N,N-diethyl-3-chloro-2-methylbenzamide | 3.35 g | C(C)N(C(C1=C(C(=CC=C1)Cl)C)=O)CC | C12H16ClNO
reactant | (R)-3-(2-hydroxymethylpyrrolidin-1-yl)-N-methoxy-N-methylpropanamide | 3.22 g | OC[C@@H]1N(CCC1)CCC(=O)N(C)OC | C10H20N2O3
product | (R)-5-chloro-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-2H-isoquinolin-1-one | 645 mg | ClC1=C2C=C(NC(C2=CC=C1)=O)CCN1[C@H](CCC1)CO | C16H19ClN2O2
